US07968570B2
5-Aminomethyl-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
A solution of 7-methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile (0.104 g, 0.3 mmol) in THF (1 mL) and ethanol (4 mL) was treated with a suspension of Raney nickel in water (1 mL) and aqueous NH4OH (0.5 mL). The mixture was stirred at ambient temperature for 12 h under hydrogen atmosphere (1 atm.). After this time GC-MS indicated that all the starting material was consumed. The reaction mixture was filtered and concentrated to afford the desired product. The material was used without purification.

reactant | 7-methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.3 mmol, 0.104 g | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C18H13F3N2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | 1 mL | O | H2O
solvent | NH4OH | 0.5 mL | [NH4+].[OH-]
product | 5-Aminomethyl-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | NCC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C18H17F3N2O2
